US08703810B2
Step 3: (S)-2-((R)-3-Fluoropyrrolidin-1-yl)propan-1-ol
(R)-3-Fluoro-1-((S)-1-(trityloxy)propan-2-yl)pyrrolidine (732 mg, 1.87 mmol) and HCl (2N in Et20, 1.4 mL, 2.8 mmol) were stirred at room temperature for 5 h. The solvent was decanted off, and the solid was dissolved in DCM (30 mL). The solution was washed (sat'd K2CO3), dried (Na2SO4), and concentrated under reduced pressure. The crude material was purified on a silica gel column to yield (S)-2-(R)-3-fluoropyrrolidin-1-yl)propan-1-ol (115 mg) as a clear oil. 1H NMR (DMSO-d6): δ 5.26-5.00 (m, 1H), 4.42 (t, 1H), 3.50 (m, 1H), 3.22 (m, 1H), 2.90-2.65 (m, 3H), 2.45-2.20 (m, 2H), 2.15-1.75 (m, 2H), 1.00 (d, 3H).

reactant | (R)-3-Fluoro-1-((S)-1-(trityloxy)propan-2-yl)pyrrolidine | 1.87 mmol, 732 mg | F[C@H]1CN(CC1)[C@H](COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C26H28FNO
reactant | HCl | 2.8 mmol, 2N, 1.4 mL | Cl | ClH
product | (S)-2-((R)-3-Fluoropyrrolidin-1-yl)propan-1-ol | F[C@H]1CN(CC1)[C@H](CO)C | C7H14FNO
